US07541481B2
7.1. Preparation of 2-[2-(1H-inden-3-yl)-2-methylpropyl]-4-methyl-1,3-thiazole
A solution of 2,4-dimethyl-1,3-thiazole (3.2 g, 28.1 mmol) in 20 ml of tetrahydrofuran was cooled to −78° C. and 15% n-butyl-lithium in hexane (17.5 ml, 28 mmol) was added during 15 min with stirring. The resulting yellow suspension was stirred for 20 min and then a solution of 1-(1-methylethylidene)-1H-indene (4.6 g, 29 mmol) in 5 ml of tetrahydrofuran added with vigorous stirring while the temperature was maintained at −78° C. The reaction mixture was allowed to reach room temperature and for 14 h. The resulting mixture was hydrolyzed with a saturated ammonium chloride solution.

reactant | 2,4-dimethyl-1,3-thiazole | 28.1 mmol, 3.2 g | CC=1SC=C(N1)C | C5H7NS
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | hexane | 28 mmol, 17.5 ml | CCCCCC | C6H14
reactant | 1-(1-methylethylidene)-1H-indene | 29 mmol, 4.6 g | CC(C)=C1C=CC2=CC=CC=C12 | C12H12
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[2-(1H-inden-3-yl)-2-methylpropyl]-4-methyl-1,3-thiazole | C1C=C(C2=CC=CC=C12)C(CC=1SC=C(N1)C)(C)C | C17H19NS
